US05843983
4(a) (2R,4R)-1-Ethoxycarbonyl-2-[2-{4-fluoro-2-[2-(4-fluoro-3-methoxyphenyl)ethyl]phenoxy}ethyl]-4-hydroxypvrrolidine
622 mg of 4-fluoro-2-[2-(4-fluoro-3-methoxyphenyl)ethyl]phenol (prepared as described in Preparation 5) were dissolved in 7 ml of N,N-dimethylacetamide. The resulting solution was allowed to react with 343 mg of potassium t-butoxide and 678 mg of (2S,4R)-2-(2-chloroethyl)-1-ethoxycarbonyl-4-hydroxypyrrolidine and extracted in the same manner as described in step (a) of Example 1. The resulting oily substance was purified by silica gel column chromatography, using a 2:3 by volume mixture of hexane and ethyl acetate as the eluent, to give 552 mg (yield 52%) of the title compound as a colorless oily substance.

reactant | 4-fluoro-2-[2-(4-fluoro-3-methoxyphenyl)ethyl]phenol | 622 mg | FC1=CC(=C(C=C1)O)CCC1=CC(=C(C=C1)F)OC | C15H14F2O2
reactant | potassium t-butoxide | 343 mg | CC(C)([O-])C.[K+]
reactant | (2S,4R)-2-(2-chloroethyl)-1-ethoxycarbonyl-4-hydroxypyrrolidine | 678 mg | ClCC[C@H]1N(C[C@@H](C1)O)C(=O)OCC | C9H16ClNO3
solvent | N,N-dimethylacetamide | 7 ml | CN(C(C)=O)C | C4H9NO
product | (2R,4R)-1-Ethoxycarbonyl-2-[2-{4-fluoro-2-[2-(4-fluoro-3-methoxyphenyl)ethyl]phenoxy}ethyl]-4-hydroxypvrrolidine | 552 mg, yield 52% | C(C)OC(=O)N1[C@@H](C[C@H](C1)O)CCOC1=C(C=C(C=C1)F)CCC1=CC(=C(C=C1)F)OC | C24H29F2NO5
